US04479962
1-(3-Methylbenzimidazol-4-yloxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol dihydrochloride
In a manner analogous to the preceding Example, by reacting 3-amino-2-methylamino-1-(2-hydroxy-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propoxy)-benzene trihydrochloride with formic acid, there are obtained 2.1 g. (14% of theory) of the desired compound; m.p. 94°-96° C. (after recrystallization from ethanol/diethyl ether).

reactant | 3-amino-2-methylamino-1-(2-hydroxy-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propoxy)-benzene trihydrochloride | Cl.Cl.Cl.NC=1C(=C(C=CC1)OCC(CNCCNC1=C(C=CC=C1C)C)O)NC
reactant | formic acid | C(=O)O | CH2O2
product | 1-(3-Methylbenzimidazol-4-yloxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol dihydrochloride | Cl.Cl.CN1C=NC2=C1C(=CC=C2)OCC(CNCCNC2=C(C=CC=C2C)C)O | InChI=1S/C21H28N4O2.2ClH/c1-15-6-4-7-16(2)20(15)23-11-10-22-12-17(26)13-27-19-9-5-8-18-21(19)25(3)14-24-18;;/h4-9,14,17,22-23,26H,10-13H2,1-3H3;2*1H
